* /home/akashambekar6955/desktop/akash_hackathon/akash_hackathon_design/akash_hackathon_design.cir

.include lm_741.sub
r1  ? net-_r1-pad2_ 1k
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
r5  net-_r4-pad2_ net-_r5-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r7-pad2_ 1k
r8  net-_r7-pad2_ gnd 1k
x1 ? ? ? ? ? ? ? ? lm_741
x3 ? net-_r9-pad1_ vin gnd ? net-_u3-pad1_ net-_r9-pad1_ ? lm_741
x4 ? net-_r10-pad1_ vin gnd ? net-_u3-pad2_ net-_r9-pad1_ ? lm_741
x5 ? net-_r10-pad2_ vin gnd ? net-_u3-pad3_ net-_r9-pad1_ ? lm_741
x6 ? net-_r11-pad2_ vin gnd ? net-_u3-pad4_ net-_r9-pad1_ ? lm_741
x7 ? net-_r12-pad2_ vin gnd ? net-_u3-pad5_ net-_r9-pad1_ ? lm_741
x8 ? net-_r13-pad2_ vin gnd ? net-_u3-pad6_ net-_r9-pad1_ ? lm_741
x9 ? net-_r14-pad2_ vin gnd ? net-_u3-pad7_ net-_r9-pad1_ ? lm_741
r9  net-_r9-pad1_ net-_r10-pad1_ 1k
r10  net-_r10-pad1_ net-_r10-pad2_ 1k
r11  net-_r10-pad2_ net-_r11-pad2_ 1k
r12  net-_r11-pad2_ net-_r12-pad2_ 1k
r13  net-_r12-pad2_ net-_r13-pad2_ 1k
r14  net-_r13-pad2_ net-_r14-pad2_ 1k
r15  net-_r14-pad2_ gnd 1k
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ gnd net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_r16-pad1_ o1 o0 dac_bridge_3
* u5  o2 plot_v1
* u6  o1 plot_v1
* u7  o0 plot_v1
* u1  vin plot_v1
* u8  net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ new_encoder8_3
r16  net-_r16-pad1_ o2 1k
c1  o2 gnd 1u
v1 net-_r9-pad1_ gnd  dc 5
v2  vin gnd 7
a1 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ gnd ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u3
a2 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ ] [net-_r16-pad1_ o1 o0 ] u4
a3 [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ ] u8
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             new_encoder8_3, NgSpice Name: new_encoder8_3
.model u8 new_encoder8_3(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(o2)
plot v(o1)
plot v(o0)
plot v(vin)
.endc
.end
